US09284324B2
Preparation of 1-{4-[(1-isopropylpiperidin-4-yl)oxy]phenyl}-N-methyl-1H-pyrrole-3-carboxamide (Compound No. 18)
The titled compound was prepared as a colorless crystal by repeating the procedure of Example 1, except that the methyl 1H-pyrrole-3-carboxylic acid was replaced by N-methyl-1H-pyrrole-3-carboxamide and the 1-cyclobutyl-4-(4-iodophenoxy)piperidine by 4-(4-iodophenoxy)-1-isopropylpiperidine.

reactant | methyl 1H-pyrrole-3-carboxylic acid | CN1C=C(C=C1)C(=O)O | C6H7NO2
reactant | N-methyl-1H-pyrrole-3-carboxamide | CNC(=O)C1=CNC=C1 | C6H8N2O
reactant | 1-cyclobutyl-4-(4-iodophenoxy)piperidine | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)I | C15H20INO
reactant | 4-(4-iodophenoxy)-1-isopropylpiperidine | IC1=CC=C(OC2CCN(CC2)C(C)C)C=C1 | C14H20INO
product | 1-{4-[(1-isopropylpiperidin-4-yl)oxy]phenyl}-N-methyl-1H-pyrrole-3-carboxamide | C(C)(C)N1CCC(CC1)OC1=CC=C(C=C1)N1C=C(C=C1)C(=O)NC | C20H27N3O2
